datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC[C@@H]1C(=O)OC[C@H]1Cc1c[n+:21]([H:20])cn1C.C[N:10](C)Cc1ccc(O)c(O)c1O>>CC[C@@H]1C(=O)OC[C@H]1Cc1c[n:21]cn1C.C[N+:10](C)(Cc1ccc(O)c(O)c1O)[H:20] 10=20;20,21=21",
"Cc1ccccc1SCC(=O)[O:21][H:20].NC(CC[NH:10]c1ccccc1)=NO>>Cc1ccccc1SCC(=O)[O-:21].NC(CC[NH+:10](c1ccccc1)[H:20])=NO 10=20;20,21=21",
"CC(=O)[S:21][H:20].Cc1cc(-c2[nH]cc[nH+]2)[n:10]n1C>>CC(=O)[S-:21].Cc1cc(-c2[nH]cc[nH+]2)[n+:10]([H:20])n1C 10=20;20,21=21",
"CC(=O)NS(=O)(=O)c1ccsc1C(=O)[O:21][H:20].c1ccc(-c2c[n-:10]c(-c3ccccc3)n2)cc1>>CC(=O)NS(=O)(=O)c1ccsc1C(=O)[O-:21].c1ccc(-c2c[n:10]([H:20])c(-c3ccccc3)n2)cc1 10=20;20,21=21",
"CC1CCC[N:10](C(C)C=C(c2cccs2)c2cccs2)C1.Cc1[nH][n+:21]([H:20])c(C)c1Cl>>CC1CCC[N+:10](C(C)C=C(c2cccs2)c2cccs2)([H:20])C1.Cc1[nH][n:21]c(C)c1Cl 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O=C([O-])[C@H](Cc1c[nH]cn1)NC(=O)[C@H](Cc1c[nH]cn1)[NH2:10]>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C([O-])[C@H](Cc1c[nH]cn1)NC(=O)[C@H](Cc1c[nH]cn1)[NH2+:10][H:20] 10=20;20,21=21",
"COc1cc(S(C)=O)ccc1-c1[nH]c2cc(N)cnc2[n+:21]1[H:20].[NH3+]CCCCCCCCCCC(=O)[O-:10]>>COc1cc(S(C)=O)ccc1-c1[nH]c2cc(N)cnc2[n:21]1.[NH3+]CCCCCCCCCCC(=O)[O:10][H:20] 10=20;20,21=21",
"COc1cc(S(C)=O)ccc1-c1nc2[nH]ncc2[n-:10]1.Cc1ccc(S(=O)(=O)[N:21](C(=O)OC(C)(C)C)[H:20])cc1>>COc1cc(S(C)=O)ccc1-c1nc2[nH]ncc2[n:10]1[H:20].Cc1ccc(S(=O)(=O)[N-:21]C(=O)OC(C)(C)C)cc1 10=20;20,21=21",
"COc1ccc2c3c1O[C@H]1[C@@H](O)C=C[C@H]4[C@@H](C2)[N+:21](C)([H:20])CC[C@@]341.c1[nH]c2ccc([NH2:10])cc2[nH+]1>>COc1ccc2c3c1O[C@H]1[C@@H](O)C=C[C@H]4[C@@H](C2)[N:21](C)CC[C@@]341.c1[nH]c2ccc([NH2+:10][H:20])cc2[nH+]1 10=20;20,21=21",
"CC(C#N)C(=O)[O:21][H:20].O=C([O-])[C@@H]1O[C@H](Oc2ccc3[nH+]ccc([O-:10])c3c2)[C@@H](O)[C@H](O)[C@H]1O>>CC(C#N)C(=O)[O-:21].O=C([O-])[C@@H]1O[C@H](Oc2ccc3[nH+]ccc([O:10][H:20])c3c2)[C@@H](O)[C@H](O)[C@H]1O 10=20;20,21=21",
"CCCc1cc(Cl)cc(Cl)c1[O:21][H:20].O=C(c1ccc[nH+]c1[O-])[O-:10]>>CCCc1cc(Cl)cc(Cl)c1[O-:21].O=C(c1ccc[nH+]c1[O-])[O:10][H:20] 10=20;20,21=21",
"CCSC(C)[O-:10].O=C(C1=CC=NC=C1)[CH:21](C1=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C1)[H:20]>>CCSC(C)[O:10][H:20].O=C(C1=CC=NC=C1)[CH-:21]C1=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C1 10=20;20,21=21",
"O=S(=O)(Nc1nccc[n:10]1)c1ccccc1.c1ccc([N+:21](CC2CO2)(CC2CO2)[H:20])cc1>>O=S(=O)(Nc1nccc[n+:10]1[H:20])c1ccccc1.c1ccc([N:21](CC2CO2)CC2CO2)cc1 10=20;20,21=21",
"[O-]c1ccc(-c2ccc([O-:10])cc2)cc1.[O-]c1cccc([O:21][H:20])c1>>[O-]c1ccc(-c2ccc([O:10][H:20])cc2)cc1.[O-]c1cccc([O-:21])c1 10=20;20,21=21",
"C[NH+](C)Cc1cc(O)c(O)c(C[N:10](C)C)c1.O=P1([O:21][H:20])CCCCC1>>C[NH+](C)Cc1cc(O)c(O)c(C[N+:10](C)(C)[H:20])c1.O=P1([O-:21])CCCCC1 10=20;20,21=21",
"Cc1cccc(/C=C/C(=O)[O:21][H:20])c1.[O-][n+]1cnc2ncn(Cc3ccccc3)c2c1[NH-:10]>>Cc1cccc(/C=C/C(=O)[O-:21])c1.[O-][n+]1cnc2ncn(Cc3ccccc3)c2c1[NH:10][H:20] 10=20;20,21=21",
"O=C1SC2=C(C=CC=C2)[CH:21]1[H:20].c1cc([C@@H]2CCCN2)nc([C@@H]2CCC[NH:10]2)c1>>O=C1SC2=C(C=CC=C2)[CH-:21]1.c1cc([C@@H]2CCCN2)nc([C@@H]2CCC[NH+:10]2[H:20])c1 10=20;20,21=21",
"Cc1ccc2c(c(NCCC[NH+](C)C)cc[n:10]2)c1[N+](=O)[O-].S=C1Nc2cncnc2[N:21]1[H:20]>>Cc1ccc2c(c(NCCC[NH+](C)C)cc[n+:10]2[H:20])c1[N+](=O)[O-].S=C1Nc2cncnc2[N-:21]1 10=20;20,21=21",
"CNc1cc[nH+]c([S:21][H:20])n1.[NH3+][C@H]1CCCC[C@H]1[NH2:10]>>CNc1cc[nH+]c([S-:21])n1.[NH3+][C@H]1CCCC[C@H]1[NH2+:10][H:20] 10=20;20,21=21",
"CC1=CC(=O)Oc2cccc([O-:10])c21.CCCC[NH2+]CCC(N)=[N+:21](O)[H:20]>>CC1=CC(=O)Oc2cccc([O:10][H:20])c21.CCCC[NH2+]CCC(N)=[N:21]O 10=20;20,21=21",
"Cc1ncc(C(=O)[O-:10])s1.[NH3+]CCCCCCNC(=S)[S:21][H:20]>>Cc1ncc(C(=O)[O:10][H:20])s1.[NH3+]CCCCCCNC(=S)[S-:21] 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].C[C@]1([NH2:10])C[C@@H]1N>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.C[C@]1([NH2+:10][H:20])C[C@@H]1N 10=20;20,21=21",
"CCCC[NH:10]CC(=O)[O-].NC(c1ccccc1N)=[N+:21](O)[H:20]>>CCCC[NH+:10](CC(=O)[O-])[H:20].NC(c1ccccc1N)=[N:21]O 10=20;20,21=21",
"C=C(C)C(=O)OCC[NH+:21](C(C)C)[H:20].CC[N:10](CC)CC(=O)Nc1ccc(C)cc1C>>C=C(C)C(=O)OCC[NH:21]C(C)C.CC[N+:10](CC)(CC(=O)Nc1ccc(C)cc1C)[H:20] 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].c1ccc(CCCCC[NH2:10])nc1>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.c1ccc(CCCCC[NH2+:10][H:20])nc1 10=20;20,21=21",
"COc1cc(C(N)=O)ccc1-c1nc2c(ncn2C)[n-:10]1.O=C(C1CCc2ccccc2O1)[O:21][H:20]>>COc1cc(C(N)=O)ccc1-c1nc2c(ncn2C)[n:10]1[H:20].O=C(C1CCc2ccccc2O1)[O-:21] 10=20;20,21=21",
"C1CSCC[NH+:21]([H:20])CCN1.CC(=O)c1ccccc1[N-:10]N=C(C(=O)c1ccccc1)C(=O)c1ccccc1>>C1CSCC[NH:21]CCN1.CC(=O)c1ccccc1[N:10](N=C(C(=O)c1ccccc1)C(=O)c1ccccc1)[H:20] 10=20;20,21=21",
"c1ccc(-c2[nH]cc[n:10]2)nc1.c1ccc(CCNc2nc[n+:21]([H:20])c3nc[nH]c23)cc1>>c1ccc(-c2[nH]cc[n+:10]2[H:20])nc1.c1ccc(CCNc2nc[n:21]c3nc[nH]c23)cc1 10=20;20,21=21",
"Ic1cc(I)c2cccnc2c1[O:21][H:20].c1ccc2c(c1)nn[n-:10]2>>Ic1cc(I)c2cccnc2c1[O-:21].c1ccc2c(c1)nn[n:10]2[H:20] 10=20;20,21=21",
